US07825244B2
4-[7-(2-Oxo-imidazolidin-1-yl)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
To a mixture of 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (458 mg, 1.38 mmol), which was prepared as described in Example 12b, and (2-amino-ethyl)-carbamic acid benzyl ester hydrochloride (446 mg, 1.93 mmol) in DMSO (1.0 mL) was added K2CO3 (1.52 g, 11.04 mmol). The mixture was stirred at 115° C. overnight and subsequently partitioned between EtOAc and water. The combined organic extracts were washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash column chromatography on silica gel (EtOAc as eluent) to afford the desired product as a white solid (400 mg, 73%). 1H NMR (CDCl3) δ 9.13 (s, 1H), 8.69 (dd, J=9.40 and 2.35 Hz, 1H), 8.08 (d, J=9.53 Hz, 1H), 7.42 (d, J=2.33 Hz, 1H), 5.25 (br, 1H), 4.31 (m, 2H), 4.09 (t, J=8.21 Hz, 2H), 3.69 (t, J=8.14 Hz, 2H), 3.63 (m, 1H), 2.95 (m, 2H), 1.77-2.04 (4H), 1.48 (s, 9H). Calcd for C21H28N5O3 (MH+) 398.3, found 398.3.

reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1.38 mmol, 458 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
reactant | (2-amino-ethyl)-carbamic acid benzyl ester hydrochloride | 1.93 mmol, 446 mg | Cl.C(C1=CC=CC=C1)OC(NCCN)=O
reactant | K2CO3 | 11.04 mmol, 1.52 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 4-[7-(2-Oxo-imidazolidin-1-yl)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 400 mg, 73% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)N1C(NCC1)=O | C21H27N5O3
